US06083961
A mixture of 3-benzyloxy-2-amino-N-methylaniline (600 mg), isobutyric acid (243 mg) and 4N hydrochloric acid (3.5 ml) was refluxed for 3 hours, and the solvent was removed in vacuo. Chloroform and saturated sodium bicarbonate solution were added to the residue. The separated organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (chloroform:methanol=50:1, v/v) to give 4-hydroxy-2-isopropyl-1-methyl-1H-benzimidazole (33 mg).

reactant | 3-benzyloxy-2-amino-N-methylaniline | 600 mg | C(C1=CC=CC=C1)OC=1C(=C(NC)C=CC1)N | C14H16N2O
reactant | isobutyric acid | 243 mg | C(C(C)C)(=O)O | C4H8O2
reactant | hydrochloric acid | 4N, 3.5 ml | Cl | ClH
product | 4-hydroxy-2-isopropyl-1-methyl-1H-benzimidazole | 33 mg | OC1=CC=CC=2N(C(=NC21)C(C)C)C | C11H14N2O
